US08809342B2
To a room temperature solution of 4-(nitromethyl)-4′-(trifluoromethyl)biphenyl (200 mg, 0.711 mmol) and DBU (54.4 mg, 0.355 mmol) in DMF (3 ml) was added cyclopropanecarbaldehyde (99.7 mg, 1.42 mmol). The reaction mixture was stirred at room temperature overnight. The resulting mixture was diluted with water and extracted with ethyl acetate (10 mL*3). The combined organic layers were dried over Na2SO4 and concentrated under reduced pressure. The crude product was purified by preparative TLC to give impure (Z)-4-(2-cyclopropyl-1-nitrovinyl)-4′-(trifluoromethyl)biphenyl (110 mg) as a colorless solid. To a solution of the impure (Z)-4-(2-cyclopropyl-1-nitrovinyl)-4′-(trifluoromethyl)biphenyl (55 mg, 0.16 mmol) in THF (3 mL) was added Raney nickel. The reaction mixture was stirred at room temperature under an atmosphere of hydrogen (40 psi) overnight. The reaction mixture was purified by preparative TLC to give 2-cyclopropyl-1-(4′-(trifluoromethyl)biphenyl-4-yl)ethanamine (20 mg) as a colorless solid. 1H NMR (400 MHz, CDCl3) δ 7.62-7.60 (m, 4H), 7.49 (d, J=8.0 Hz, 2H), 7.39 (d, J=8.0 Hz, 2H), 4.04-4.08 (m, 1H), 1.70-1.56 (m, 1H), 1.54-1.49 (m, 1H), 0.65-0.50 (m, 1H), 0.45-0.30 (m, 2H), 0.15-0.00 (m, 2H).

reactant | (Z)-4-(2-cyclopropyl-1-nitrovinyl)-4′-(trifluoromethyl)biphenyl | 0.16 mmol, 55 mg | C1(CC1)\C=C(/[N+](=O)[O-])\C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F | C18H14F3NO2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
catalyst | Raney nickel | [Ni] | Ni
product | 2-cyclopropyl-1-(4′-(trifluoromethyl)biphenyl-4-yl)ethanamine | 20 mg | C1(CC1)CC(N)C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F | C18H18F3N
